US05631262
11(b) 3-Amino-5-carboxymethylphenol t butylcarbamate
A solution of 3-amino-5-carboxymethylphenol (1.5 g, 8.0 mmol) in DMF (8 mL) under an argon atmosphere was treated with di-t butyldicarbonate (2.1 g, 10 mmol). The reaction was stirred at room temperature for 16 hours. The reaction was diluted with EtOAc and washed with H2O and brine and dried (MgSO4). Recrystallization from Et2O-hexane gave a tan solid: 1H NMR (250 MHz, CDCl3) δ 7.35 (dd, J=1.9 Hz, 1H, aryl), 7.15 (dd, J=1.9 Hz, 1H, aryl), 6.65 (dd, J=1.9 Hz, 1H, aryl), 6.45 (s, 1H, NH), 3.80 (s, 3H, methyl ester), 1.4 (s, 9H, t butyl).

reactant | 3-amino-5-carboxymethylphenol | 8.0 mmol, 1.5 g | NC=1C=C(C=C(C1)CC(=O)O)O | C8H9NO3
reactant | di-t butyldicarbonate | 10 mmol, 2.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Amino-5-carboxymethylphenol t butylcarbamate | C(C)(C)(C)NC(=O)OC1=CC(=CC(=C1)CC(=O)O)N | C13H18N2O4
